US04837363
(±)-1-(Phenylmethoxy)-3-[3-(trifluoromethyl)phenoxy]propan-2-ol
Sodium hydride (80% dispersion in oil, 0.045 g) was added to a mixture of benzyl alcohol (4 ml) and THF (3 ml) and warmed gently until effervescence ceased. To the cooled solution was added 1,2-epoxy-3-[3-(trifluoromethyl)phenoxy]propane (2.12 g). After stirring for 3 h the mixture was poured into ER (50 ml) and washed with brine. The dried extracts were evporated and the residue distilled (b.p. 140°-144°/0.03 mm) to yield the title compound as an oil (2.25 g). I.r. (Neat) 3420 cm-1

reactant | Sodium hydride | 0.045 g | [H-].[Na+]
reactant | benzyl alcohol | 4 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | 1,2-epoxy-3-[3-(trifluoromethyl)phenoxy]propane | 2.12 g | O1CC1COC1=CC(=CC=C1)C(F)(F)F | C10H9F3O2
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | (±)-1-(Phenylmethoxy)-3-[3-(trifluoromethyl)phenoxy]propan-2-ol | 2.25 g | C1(=CC=CC=C1)COCC(COC1=CC(=CC=C1)C(F)(F)F)O | C17H17F3O3
